US08022075B2
1-Hydroxybenzotriazole (3.78 g), 4-dimethylaminopyridine (3.42 g), and N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.40 g) were added to a solution (100 mL) of 2-bromo-4-methylbenzoic acid (5.00 g) and N,O-dimethylhydroxylamine hydrochloride (2.73 g) in dichloromethane, followed by stirring at room temperature for 13 hours. 1N Hydrochloric acid was added to the reaction mixture, followed by extraction with dichloromethane and evaporation of the solvent. After purification, 2-bromo-4,N-dimethyl-N-methoxybenzamide (6.0 g) was yielded. The 2-bromo-4,N-dimethyl-N-methoxybenzamide (6.0 g) was dissolved in an anhydrous tetrahydrofuran solution (50 mL) under a stream of argon. Diisobutylaluminum hydride (24.7 mL, 0.93M hexane solution) was added dropwise to the solution at −78° C., and the mixture was stirred at the same temperature for 2 hours. Methanol (5 mL) was added dropwise to the reaction mixture, and an aqueous saturated ammonium chloride solution (5 mL) was added thereto, the mixture was stirred at room temperature for 1 hour. Sodium sulfate anhydrate was added to the reaction mixture, followed by further stirring for 1 hour. The precipitated matter was removed through filtration by use of Celite, and the filtrate was purified, to thereby yield 2-bromo-4-methylbenzaldehyde (4.0 g). The procedure of Referential Example 9 was repeated, except that 2-bromo-4-methylbenzaldehyde (4.0 g) was used, to thereby yield the title compound (3.7 g).

reactant | 1-Hydroxybenzotriazole | 3.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.40 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-bromo-4-methylbenzoic acid | 100 mL, 5.00 g | BrC1=C(C(=O)O)C=CC(=C1)C | C8H7BrO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.73 g | Cl.CNOC
reactant | Hydrochloric acid | 1N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 3.42 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-4,N-dimethyl-N-methoxybenzamide | 6.0 g | BrC1=C(C(=O)N(OC)C)C=CC(=C1)C | C10H12BrNO2
